US06166015
Benzaldehyde (5.3 g, 50 mmol) was added to a solution of 3-aminomethyl-pyrrolidine (5.0 g, 50 mmol) in toluene (anhydrous, 100 mL) in a 250 mL flask at room temperature under N2. A Dean-Stark apparatus and condenser were fitted and the reaction mixture was heated at reflux for 4 h. The reaction mixture was cooled to room temperature and di-tert-butyldicarbonate (5.3 g, 50 mmol) was added portion-wise and the resulting solution is stirred at room temperature overnight. The reaction mixture was concentrated on the rotavap and the residue was diluted with 1 M NaHSO4 (80 mL, 80 mmol, 1.6 equiv.) and stirred vigorously for 2 h. The reaction mixture was washed with ether to remove unwanted organic byproducts, then basified with 1 M NaOH to pH 7. Further extraction with either ether or ethyl acetate removed additional unwanted byproducts. The aqueous solution was then made strongly basic (pH 12) with 1 M NaOH and extracted with ethyl acetate. The organic layer was washed with brine, dried with Na2SO4, then concentrated to give the 3-(RS)-aminomethyl-1-tert-butoxycarbonyl-pyrrolidine as a colorless oil (80-90%), which was used directly without further purification.

reactant | Benzaldehyde | 50 mmol, 5.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-aminomethyl-pyrrolidine | 50 mmol, 5.0 g | NCC1CNCC1 | C5H12N2
reactant | di-tert-butyldicarbonate | 50 mmol, 5.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHSO4 | 80 mmol, 1 M, 80 mL, 1.6 equiv. | OS(=O)(=O)[O-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(RS)-aminomethyl-1-tert-butoxycarbonyl-pyrrolidine | 80-90% | NCC1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
